US08138189B2
Step 5: 3-(2-Chloro-4-methoxy-phenyl)-1,1,1-trifluoro-2-(5-methyl-pyrazin-2-yl)-butan-2-ol
Trifluoromethyltrimethylsilane (2N in THF, 0.6 mL, 1.2 mmol) was added at 0° C. to a solution of 2-(2-chloro-4-methoxy-phenyl)-1-(5-methyl-pyrazin-2-yl)-propan-1-one (290 mg, 1.0 mmol) in THF (7 mL), followed by the addition of tetrabutylammonium fluoride trihydrate (31 mg, 0.1 mmol). After stirring overnight at r.t., the title compound (87 mg, 24%) was isolated from the reaction mixture by reversed-phase, preparative HPLC (Agilent Zorbax XdB-C18 column, solvent gradient 5-95% CH3CN in 0.1% TFA[aq]). 1H NMR (300 MHz, CDCl3) δ 8.75 (1H, s), 8.13 (1H, s), 7.44 (1H, d), 6.64 (1H, d), 6.59 (1H, dd), 5.90 (1H, s), 4.33 (1H, q), 3.67 (3H, s), 2.50 (3H, s), 1.54 (3H, d); MS (m/e, ISP neg. ion)=359.1 [M−H+].

reactant | Trifluoromethyltrimethylsilane | 1.2 mmol, 2N, 0.6 mL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | 2-(2-chloro-4-methoxy-phenyl)-1-(5-methyl-pyrazin-2-yl)-propan-1-one | 1.0 mmol, 290 mg | ClC1=C(C=CC(=C1)OC)C(C(=O)C1=NC=C(N=C1)C)C | C15H15ClN2O2
reactant | tetrabutylammonium fluoride trihydrate | 0.1 mmol, 31 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | CH3CN | CC#N | C2H3N
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-(2-Chloro-4-methoxy-phenyl)-1,1,1-trifluoro-2-(5-methyl-pyrazin-2-yl)-butan-2-ol | 87 mg, 24% | ClC1=C(C=CC(=C1)OC)C(C(C(F)(F)F)(O)C1=NC=C(N=C1)C)C | C16H16ClF3N2O2
